US07285563B2
Ethyl 2-isoquinolin-3-ylethylcarbamate
To an ice-bath cooled solution of 3-(2-aminoethyl)isoquinoline (Description 113; 2.70 g, 15.7 mmol) and triethylarnine (2.84 ml, 20.41 mmol) in anhydrous dichloromethane (75 ml) was added slowly ethyl chloroformate (1.65 ml, 17.27 mmol) and the resulting mixture stirred at room temperature for 1 hour. The mixture was washed with water, sat NaCl, dried over Na2SO4, filtered and evaporated. The residue was purified by column chromatography on silica elution with a gradient rising from DCM to 2% MeOH in DCM+0.5% NH4OH to give the title compound (2.27 g, 59%).

reactant | 3-(2-aminoethyl)isoquinoline | 15.7 mmol, 2.70 g | NCCC=1N=CC2=CC=CC=C2C1 | C11H12N2
reactant | triethylarnine | 20.41 mmol, 2.84 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 17.27 mmol, 1.65 ml | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | Ethyl 2-isoquinolin-3-ylethylcarbamate | 2.27 g, 59% | C1=NC(=CC2=CC=CC=C12)CCNC(OCC)=O | C14H16N2O2
